US06235771B1
In DMF (120 ml) was dissolved 4-bromobenzyl alcohol (10.1 g). To the mixture was added under ice-cooling 65% sodium hydride (3.6 g), and the mixture was stirred at room temperature for 3 hours. To the mixture was added dropwise at room temperature iodoethane (12.6 g),and the mixture was stirred at room temperature for 2 hours. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=8/1) to give 1-bromo-4-(ethoxymethyl)benzene (10.1 g).

reactant | 4-bromobenzyl alcohol | 10.1 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | sodium hydride | 3.6 g | [H-].[Na+]
reactant | iodoethane | 12.6 g | ICC | C2H5I
reactant | water | O | H2O
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | 1-bromo-4-(ethoxymethyl)benzene | 10.1 g | BrC1=CC=C(C=C1)COCC | C9H11BrO
